US07402598B2
(i) 7-Acetyl-2-oxo-2,3-dihydro-1,3-benzothiazol-4-yl benzyl carbonate
A mixture of 7-acetyl-4-hydroxy-1,3-benzothiazol-2(3H)-one (209 mg) in dry THF (5 ml) and DCM (5 ml) with pyridine (0.2 ml), stirring under nitrogen, was cooled to −10° C. and benzylchloroformate (0.37 mls) was added. After 18 h stirring at room temperature, the mixture was diluted with water and extracted into DCM. The solution was dried (MgSO4), filtered, and evaporated in vacuo. The residue was purified on a 10 g silica SPE cartridge, eluting with a stepped gradient of 25% to 100% ethyl acetate-cyclohexane mixtures, to give the title compound (280 mg). LCMS RT=3.19 min.

reactant | 7-acetyl-4-hydroxy-1,3-benzothiazol-2(3H)-one | 209 mg | C(C)(=O)C1=CC=C(C=2NC(SC21)=O)O | C9H7NO3S
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | benzylchloroformate | 0.37 mls | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-Acetyl-2-oxo-2,3-dihydro-1,3-benzothiazol-4-yl benzyl carbonate | 280 mg | C(OC1=CC=C(C2=C1NC(S2)=O)C(C)=O)(OCC2=CC=CC=C2)=O | C17H13NO5S
